US07910588B2
Add trifluoroacetic acid (23 mL, 34.7 g, 304 mmol) to 4-cyanomethylpiperidine-1-carboxylic acid t-butyl ester (5.43 g, 24.21 mmol) in DCM (25 mL) and stir at room temperature for 18 hr. Remove the solvent in vacuo and dissolve in methanol (50 mL) and pour onto an SCX-2 column. Elute with 2 M ammonia in methanol and evaporate the eluent to give piperidin-4-ylacetonitrile as an oil which solidifies on standing (2.78 g, 92%). MS (m/z): 125.1 (M+1).

reactant | trifluoroacetic acid | 304 mmol, 23 mL, 34.7 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-cyanomethylpiperidine-1-carboxylic acid t-butyl ester | 24.21 mmol, 5.43 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CC#N | C12H20N2O2
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | piperidin-4-ylacetonitrile | N1CCC(CC1)CC#N | C7H12N2
